US05591891
To the 2-ethoxycarbonyl-3-phenylbutanoic acid (3.5 g) is added diethylamine (1.53 mL, 1 eq) and 30% formaldehyde (1.78 mL) at 0° C. The mixture is stirred overnight at a temperature of about 20° C. and is then taken up with diethyl ether (100 mL). The organic phase is separated after settling takes place, washed with 10% aqueous citric acid solution (40 mL) and finally dried over sodium sulphate. After filtering and concentrating to dryness, 2.2 g of ethyl 2-(phenylethyl)acrylate is obtained in a 71% yield in the form of a yellow oil, having the following characteristics: Rf =0.86 [methylene chloride/methanol (9:1 by volume)].

reactant | 2-ethoxycarbonyl-3-phenylbutanoic acid | 3.5 g | C(C)OC(=O)C(C(=O)O)C(C)C1=CC=CC=C1 | C13H16O4
reactant | diethylamine | 1.53 mL, 1 eq | C(C)NCC | C4H11N
reactant | formaldehyde | 1.78 mL | C=O | CH2O
reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | ethyl 2-(phenylethyl)acrylate | 2.2 g, 71% yield | C1(=CC=CC=C1)CCC(C(=O)OCC)=C | C13H16O2
